US08865736B2
Trifluoromethoxy phenyl-N-hydroxy-benzamide
To a solution of 4-Trifluoromethoxybenzonitrile (1.0 g, 5.0 mmol) in EtOH (20 mL) was added hydroxylamine hydrochloride (0.365 g, 5.0 mmol) and NaOH (0.212 g, 5.0 mmol). The resulting reaction mixture was refluxed for 15 h. After the completion of the reaction (TLC monitoring), the mixture was concentrated, added EtOH and filtered. The filtrate was evaporated in vacuo and used as such for the next step (crude yield 12.0 g, 66%).

reactant | 4-Trifluoromethoxybenzonitrile | 5.0 mmol, 1.0 g | FC(OC1=CC=C(C#N)C=C1)(F)F | C8H4F3NO
reactant | hydroxylamine hydrochloride | 5.0 mmol, 0.365 g | Cl.NO
reactant | NaOH | 5.0 mmol, 0.212 g | [OH-].[Na+]
reactant | EtOH | 20 mL | CCO | C2H6O
product | Trifluoromethoxy phenyl-N-hydroxy-benzamide | FC(OC=1C(=C(C(=O)NO)C=CC1)C1=CC=CC=C1)(F)F | C14H10F3NO3
